US04954509
1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-8-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 1, from 4.3 g (17.48 mmoles) of a mixture containing 1-(pyrrolidin-1-yl)methyl-8-methoxy-1,2,3,4-tetrahydroisoquinoline and 1-(pyrrolidin-1-yl)methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline, 4.3 g (20.98 mmoles) of 3,4-dichlorophenylacetic acid, and 8.0 g (38.80 mmoles) of dicyclohexylcarbodiimide, in 110 ml of dry methylene chloride. The silica gel chromatographic column was eluted with CH2Cl2, containing increasing amounts of MeOH (0.6-2.5%); 1.5 g of the crude product were obtained and dissolved in 40 ml of ethyl acetate. The solution was brought to acidic pH with HCl/diethyl ehter and the precipitate filtered, washed and dried, to yield 1.2 g of the title compound.

reactant | 1-(pyrrolidin-1-yl)methyl-8-methoxy-1,2,3,4-tetrahydroisoquinoline | N1(CCCC1)CC1NCCC2=CC=CC(=C12)OC | C15H22N2O
reactant | 1-(pyrrolidin-1-yl)methyl-6-methoxy-1,2,3,4-tetrahydroisoquinoline | N1(CCCC1)CC1NCCC2=CC(=CC=C12)OC | C15H22N2O
reactant | 3,4-dichlorophenylacetic acid | 20.98 mmoles, 4.3 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | 38.80 mmoles, 8.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-8-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.2 g | Cl.N1(CCCC1)CC1(NCCC2=CC=CC(=C12)OC)C(CC1=CC(=C(C=C1)Cl)Cl)=O | InChI=1S/C23H26Cl2N2O2.ClH/c1-29-20-6-4-5-17-9-10-26-23(22(17)20,15-27-11-2-3-12-27)21(28)14-16-7-8-18(24)19(25)13-16;/h4-8,13,26H,2-3,9-12,14-15H2,1H3;1H
